US05260316
To a solution of 4'-fluoro-4-biphenylylmethanol (7.38 g, 36.93 mmol) in Et2O (250 ml) is added phosphorous tribromide (7 ml, 73.06 mmol). The reaction is allowed to warm slowly to room temperature and is then refluxed for 12 hours. After the reaction is cooled to room temperature ice chips are added until gas no longer evolves. The reaction mixture is then diluted with H2O (200 ml) and extracted with 1N NaOH (300 ml) and saturated NaCl solution (300 ml), dried over MgSO4, and concentrated in vacuo to give 4'-fluoro-4-biphenylylmethyl bromide as a white solid.

reactant | 4'-fluoro-4-biphenylylmethanol | 36.93 mmol, 7.38 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)CO | C13H11FO
reactant | phosphorous tribromide | 73.06 mmol, 7 ml | P(Br)(Br)Br | Br3P
solvent | Et2O | 250 ml | CCOCC | C4H10O
solvent | H2O | 200 ml | O | H2O
product | 4'-fluoro-4-biphenylylmethyl bromide | FC1=CC=C(C=C1)C1=CC=C(C=C1)CBr | C13H10BrF
